US07338959B2
Methanesulfonic acid 3-(4-{[2-(4-chloro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-phenyl ester hydrochloride
The title compound was prepared following the procedure of example one with N2-(4-Chloro-benzyl)-N5-(2-chloro-pyrimidin-4-yl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (103 mg, 0.25 mmol) and methanesulfonic acid 3-amino-phenyl ester (56 mg, 0.25 mmol) as a white solid (87 mg, 58%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.40 (s, 1H), 8.00 (s, 1H), 7.79 (d, J=6.0 Hz, 1H), 7.64 (d, J=8.1 Hz, 1H), 7.50 (t, J=5.7 Hz, 1H), 7.36-7.44 (m, 4H), 7.23-7.29 (m, 2H), 7.08 (s, 1H), 6.84 (d, J=8.1 Hz, 2H), 5.65 (d, J=5.7 Hz, 1H), 4.58 (d, J=5.7 Hz, 2H), 3.58 (s, 3H), 3.43 (s, 3H), 3.34 (s, 3H). MS (ESI) m/z=564 [M+H]+.

reactant | N2-(4-Chloro-benzyl)-N5-(2-chloro-pyrimidin-4-yl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 103 mg | ClC1=CC=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C)C3=NC(=NC=C3)Cl)C=C1 | C20H18Cl2N6
reactant | methanesulfonic acid 3-amino-phenyl ester | 0.25 mmol, 56 mg | NC=1C=C(C=CC1)OS(=O)(=O)C | C7H9NO3S
product | Methanesulfonic acid 3-(4-{[2-(4-chloro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-phenyl ester hydrochloride | Cl.ClC1=CC=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C3=NC(=NC=C3)NC=3C=C(C=CC3)OS(=O)(=O)C)C)C=C1 | InChI=1S/C27H26ClN7O3S.ClH/c1-34(25-13-14-29-26(33-25)31-20-5-4-6-22(15-20)38-39(3,36)37)21-11-12-24-23(16-21)32-27(35(24)2)30-17-18-7-9-19(28)10-8-18;/h4-16H,17H2,1-3H3,(H,30,32)(H,29,31,33);1H
